US08252833B2
1,4-Bis(propyloxy)-2,3-naphthalenedicarboxylic acid
Diethyl 1,4-bis(propyloxy)-2,3-naphthalenedicarboxylate (11.45 g, 29.5 mmol) was dissolved in ethanol (70 ml) and treated with sodium hydroxide (3.54 g, 88.5 mmol) dissolved in water (15 ml). This was heated at 60° C. under argon for 4 hours. The reaction was confirmed to be complete by LC/MS and thin layer chromatography. The reaction mixture was cooled to room temperature and evaporated to a third of the volume. This was acidified to pH2 with hydrochloric acid (2N) and extracted with ethyl acetate (3×100 ml). Combined organics washed with water, brine and dried over magnesium sulphate. Solvent was evaporated to give the title compound as a yellow solid (8.91 g, 26.8 mmol).

reactant | Diethyl 1,4-bis(propyloxy)-2,3-naphthalenedicarboxylate | 29.5 mmol, 11.45 g | C(CC)OC1=C(C(=C(C2=CC=CC=C12)OCCC)C(=O)OCC)C(=O)OCC | C22H28O6
reactant | sodium hydroxide | 88.5 mmol, 3.54 g | [OH-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 1,4-Bis(propyloxy)-2,3-naphthalenedicarboxylic acid | 26.8 mmol, 8.91 g | C(CC)OC1=C(C(=C(C2=CC=CC=C12)OCCC)C(=O)O)C(=O)O | C18H20O6
